US04025641
6-Bromo-6-isopropoxy-hexane
The above compound is produced in analogy to Example 10, using isopropanol and 1,6-dibromohexane and sodium instead of sodium hydride. B.P.: 96°-98°/15 mm Hg.

reactant | 1,6-dibromohexane | BrCCCCCCBr | C6H12Br2
reactant | sodium | [Na] | Na
reactant | isopropanol | C(C)(C)O | C3H8O
product | 6-Bromo-6-isopropoxy-hexane | BrC(CCCCC)OC(C)C | C9H19BrO
